US04091115
7.7 ml of an aqueous solution of 40% formaldehyde and then 4.5 g of sodium cyanoborohydride were added to a mixture of 4.7 g of 2-chloro-7-methylamino-6,7-dihydro [5H] benzocycloheptene hydrochloride in 47 ml of acetonitrile and the mixture was stirred for 15 minutes at room temperature. Acetic acid was added to the reaction mixture until the pH was 7 and the mixture was stirred at room temperature for 45 minutes. The mixture was evaporated to dryness under reduced pressure to obtain 2.6 g of 2-chloro-7-dimethylamino-6,7-dihydro [5H] benzocycloheptene in the form of an oil. Addition of a solution of fumaric acid in methanol yielded 3.3 g of the fumarate of the said product melting at 160° C.

reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | 4.5 g | C(#N)[BH3-].[Na+]
reactant | 2-chloro-7-methylamino-6,7-dihydro [5H] benzocycloheptene hydrochloride | 4.7 g | Cl.ClC=1C=CC2=C(C=CC(CC2)NC)C1
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 47 ml | C(C)#N | C2H3N
product | 2-chloro-7-dimethylamino-6,7-dihydro [5H] benzocycloheptene | 2.6 g | ClC=1C=CC2=C(C=CC(CC2)N(C)C)C1 | C13H16ClN
